US04333942
(a) 4-(4-Acetaminophenoxy)-1-methyl-4-phenylpiperidine
A solution of 0.85 g of acetyl chloride in 5 ml of benzene is added dropwise to a solution of 2.8 g of 4-(4-aminophenoxy)-1-methyl-4-phenylpiperidine and 1.1 g of triethylamine in 10 ml of benzene. After stirring the mixture at room temperature for 6 hours, it is concentrated; the resulting residue is taken up with 30 ml each of water and diethyl ether; the obtained mixture is shaken thoroughly, and the organic phase is separated off, dried over sodium sulfate and concentrated. 2.8 g of the title compound remain as a viscous yellow oil which crystallizes (m.p. 143° to 144° C.) from diethylether after standing for several days.

reactant | acetyl chloride | 0.85 g | C(C)(=O)Cl | C2H3ClO
reactant | 4-(4-aminophenoxy)-1-methyl-4-phenylpiperidine | 2.8 g | NC1=CC=C(OC2(CCN(CC2)C)C2=CC=CC=C2)C=C1 | C18H22N2O
reactant | triethylamine | 1.1 g | C(C)N(CC)CC | C6H15N
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | 4-(4-Acetaminophenoxy)-1-methyl-4-phenylpiperidine | N(C(=O)C)C1=CC=C(OC2(CCN(CC2)C)C2=CC=CC=C2)C=C1 | C20H24N2O2
